US06358980B1
4-But-2-ynyloxy-benzenesulfonic acid sodium salt
To a solution of 4-hydroxybenzenesulfonate sodium salt (52.35 g, 0.225) in 1 L of isopropanol and 225 mL of a 1.0N solution of sodium hydroxide was added 59.96 g (0.45 mol) of 1 bromo-2-butyne. The resulting mixture was heated to 70° for 15 h and then the isopropanol was removed by evaporation in vacuo. The resulting white precipitate was collected by filtration, washed with isopropanol and ether and dried in vacuo to give 45.08 g (81%) of the desired product as a white solid.

reactant | 4-hydroxybenzenesulfonate sodium salt | 52.35 g | [Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | bromo-2-butyne | BrCC#CC | C4H5Br
solvent | isopropanol | 1 L | C(C)(C)O | C3H8O
product | 4-But-2-ynyloxy-benzenesulfonic acid sodium salt | 45.08 g, 81% | [Na+].C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C10H10O4S.Na/c1-2-3-8-14-9-4-6-10(7-5-9)15(11,12)13;/h4-7H,8H2,1H3,(H,11,12,13);/q;+1/p-1
